US07754728B2
Methyl 2-methoxy-5-methylbenzoate
To 5-methylsalicylic acid (3.04 g, 20 mmol) in DMF (100 ml) were added potassium carbonate (8.28 g, 60 mmol) and iodomethane (6.24 g, 44 mmol) under ice cooling and then the mixture was stirred at room temperature for 12 hours. The mixture were extracted by adding 5% sodium hydrogensulfite and ethyl acetate, and the extracted organic layer was washed with 5% citric acid and 5% brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (hexane-ethyl acetate) to give the captioned compound (3.43 g, 19.1 mmol, yield: 95%) as a colorless oil.

reactant | 5-methylsalicylic acid | 20 mmol, 3.04 g | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | potassium carbonate | 60 mmol, 8.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 44 mmol, 6.24 g | IC | CH3I
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Methyl 2-methoxy-5-methylbenzoate | 19.1 mmol, 3.43 g, yield: 95% | COC1=C(C(=O)OC)C=C(C=C1)C | C10H12O3
